US06437196B1
n-Pentanol (132 g) and 8.1 g of ferric chloride were heated to 100° C. while stirring, followed by the dropwise addition of 92.5 g of epichlorohydrin over 1 hour. The reaction mixture was then heated to 115° C. and reacted for 5 hours. After the removal of an excess alcohol at 100° C. under reduced pressure (5.32 kPa), 6 g of lauric acid, 118 g of a 48% aqueous solution of potassium hydroxide and 162 g of water were added to the residue. The resulting mixture was reacted at 200° C. for 5 hours in an autoclave. The reaction mixture was neutralized with 2.3 g of a 48% aqueous solution of potassium hydroxide. The reaction mixture was dehydrated at 100° C. under reduced pressure (6.67 kPa) and the residue was purified by distillation under reduced pressure (133 to 266 Pa, 114 to 115° C.), whereby 102 g of monopentyl glyceryl ether was obtained. As a result of GLC, it was found to that the resulting compound had a purity not less than 99% and the content of organochlorine compounds was not greater than 100 ppm.

reactant | n-Pentanol | 132 g | C(CCCC)O | C5H12O
reactant | epichlorohydrin | 92.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | potassium hydroxide | [OH-].[K+]
product | monopentyl glyceryl ether | 102 g | C(C(O)CO)OCCCCC | C8H18O3
